US08022222B2
Step H: Preparation of 3-(5-bromo-2-(4-phenethylthiazol-2-ylamino)pyridin-4-ylthio)-5-chloroisonicotinonitrile:
A flask was charged with 5-bromo-2-(4-phenethylthiazol-2-ylamino)pyridine-4-thiol (0.040 g, 0.10 mmol), 3,5-dichloroisonicotinonitrile (0.019 g, 0.11 mmol), Cs2CO3 (0.037 g, 0.11 mmol), and DMSO (2 mL). The reaction mixture was stirred at ambient temperature overnight, then quenched with water, extracted with EtOAc, dried, and concentrated. The crude material was purified by flash chromatography to provide the desired product (0.026 g, 48% yield) as a yellow solid. 1H NMR (CDCl3) δ 8.74 (d, 2H), 8.39 (s, 1H), 7.16-7.30 (m, 5H), 6.68 (s, 1H), 6.33 (s, 1H), 2.85-2.92 (m, 4H).

reactant | 5-bromo-2-(4-phenethylthiazol-2-ylamino)pyridine-4-thiol | 0.10 mmol, 0.040 g | BrC=1C(=CC(=NC1)NC=1SC=C(N1)CCC1=CC=CC=C1)S | C16H14BrN3S2
reactant | 3,5-dichloroisonicotinonitrile | 0.11 mmol, 0.019 g | ClC1=C(C#N)C(=CN=C1)Cl | C6H2Cl2N2
reactant | Cs2CO3 | 0.11 mmol, 0.037 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 3-(5-bromo-2-(4-phenethylthiazol-2-ylamino)pyridin-4-ylthio)-5-chloroisonicotinonitrile | 0.026 g, 48% yield | BrC=1C(=CC(=NC1)NC=1SC=C(N1)CCC1=CC=CC=C1)SC1=C(C#N)C(=CN=C1)Cl | C22H15BrClN5S2
